### PR TITLE
feat: emod_pos_of_not_dvd for Nat and Int

### PR DESCRIPTION
**Pull request by semorrison**
Lemmas for a `omega` preprocessor.

### CODE REVIEW

File: Std/Data/Int/DivMod.lean [hunk 1]
```diff
@@ -709,6 +709,12 @@ theorem dvd_iff_mod_eq_zero (a b : Int) : a ∣ b ↔ mod b a = 0 :=
 theorem dvd_iff_emod_eq_zero (a b : Int) : a ∣ b ↔ b % a = 0 :=
   ⟨emod_eq_zero_of_dvd, dvd_of_emod_eq_zero⟩
 
+theorem emod_pos_of_not_dvd {a b : Int} (h : ¬ a ∣ b) : a = 0 ∨ 0 < b % a := by
+  rw [dvd_iff_emod_eq_zero] at h
+  by_cases w : a = 0
+  · simp_all
+  · exact Or.inr (Int.lt_iff_le_and_ne.mpr ⟨emod_nonneg b w, Ne.symm h⟩)
```
Comment (digama0) [inline Std/Data/Int/DivMod.lean:716]:
```suggestion
  if w : a = 0 then
    simp_all
  else
    exact Or.inr (Int.lt_iff_le_and_ne.mpr ⟨emod_nonneg b w, Ne.symm h⟩)
```
